US09024027B2
To a solution of 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetic acid (230 mg, 0.857 mmol) in a mixture of THF/H2O 1/1 (10 ml), sodium hydroxide (51.4 mg, 1.286 mmol) and di-tert-butyl dicarbonate (281 mg, 1.286 mmol) were added, and the mixture was reacted for 3 hours at room temperature. The organic solvent was evaporated and 1N HCl was added (pH=4) to the aqueous residue; the desired compound was extracted with EtOAc (3×20 ml), the organic phase was dried over sodium sulfate and the solvent was removed affording 2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid (250 mg, 0.679 mmol, 79% yield). MS/ESI+ 368.1 [MH]+. This product was used in the next step without any additional purification.

reactant | 2-(4-(methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.857 mmol, 230 mg | CS(=O)(=O)NC1=C2C=CN(C2=CC=C1)CC(=O)O | C11H12N2O4S
reactant | sodium hydroxide | 1.286 mmol, 51.4 mg | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 1.286 mmol, 281 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF H2O | 10 ml | C1CCOC1.O
product | 2-(4-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.679 mmol, 250 mg, 79% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=C2C=CN(C2=CC=C1)CC(=O)O | C16H20N2O6S
